US04745116
A solution of dimethyl 4-benzyloxy-6-methyl-phthalate (1.5 gm) in sodium hydroxide (2% solution, 12 ml) and 1,2-dimethoxyethane (12 ml) was stirred at room temperature for 4 hours. The solvent was removed under reduced pressure. The aqueous solution was washed with ethyl acetate (3×125 ml). The organic extract was dried over magnesium sulphate and evaporated to give a solid. This solid was recrystallized from ethyl acetate: pet. ether 30-60 to yield 2-carbomethoxy-3-methyl-5-benzyloxy-benzoic acid (750 mg), m.p. 132°-133° C., IR (KBr): 2500-3200, 1725, 1685, 1600 cm-1. Anal. calcd. for C17H16O5 : C, 67.99, H, 5.37. Found: C, 68.01, H, 5.42.

reactant | dimethyl 4-benzyloxy-6-methyl-phthalate | 1.5 gm | C(C1=CC=CC=C1)OC=1C=C(C(C(=O)OC)=C(C1)C)C(=O)OC | C18H18O5
solvent | sodium hydroxide | 12 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 12 ml | COCCOC | C4H10O2
product | 2-carbomethoxy-3-methyl-5-benzyloxy-benzoic acid | 750 mg | C(=O)(OC)C1=C(C(=O)O)C=C(C=C1C)OCC1=CC=CC=C1 | C17H16O5
